US05783704
4-(Pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one-2-carboxylic acid dimethylamide (Compound 1.116 in Table 1)
3.2 g of dimethylcarbamoyl chloride are added to a suspension of 3.8 g of 4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one in 50 ml of pyridine. The resulting solution is stirred for 14 hours at 20° and then concentrated by evaporation. Water is added to the residue. The crystals that have precipitated are filtered off with suction and dried under a high vacuum. 3.6 g of crystals of the title compound having a melting point of 181°-182° are obtained.

reactant | dimethylcarbamoyl chloride | 3.2 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 4-(pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one | 3.8 g | N1=CC(=CC=C1)C=NN1C(NN=C1)=O | C8H7N5O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one-2-carboxylic acid dimethylamide | CN(C(=O)N1N=CN(C1=O)N=CC=1C=NC=CC1)C | C11H12N6O2
